US03975443
Dimethylammonium chloride (81.5 g, 1.0 mole) dissolved in water (150 ml.) was added to cyclohexanone (98.0 g., 1.0 mole), quickly followed by a solution of potassium cyanide (68.0 g, 1.045 mole) in water (150 ml.) added over a period of five minutes. The reaction mixture was stirred for 24 hours during which time a colourless crystalline solid was formed. The solid was filtered off, washed with ice cold water (200 ml.), dissolved in benzene (150 ml.) and rewashed with water (100 ml.). The aqueous layer was extracted with benzene (100 ml.), the benzene solutions then being combined, dried over anhydrous sodium sulphate and evaporated under reduced pressure. The oily residue (144 g.) solidified to give 1-cyanocyclohexyldimethylamine, m.p. 36°.

reactant | Dimethylammonium chloride | 1.0 mole, 81.5 g | [Cl-].C[NH2+]C
reactant | cyclohexanone | 1.0 mole, 98.0 g | C1(CCCCC1)=O | C6H10O
reactant | potassium cyanide | 1.045 mole, 68.0 g | [C-]#N.[K+]
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 1-cyanocyclohexyldimethylamine | C(#N)C1(CCCCC1)N(C)C | C9H16N2
